US09056859B2
A solution of crude (3-cyano-4-fluorophenyl)acetic acid (980 mg, 5.6 mmol) in methanol (10 mL) was added 5 M HCl/MeOH (10 mL). The reaction was stirred at ambient temperature overnight and concentrated. The residue was purified with preparative TLC to afford methyl (3-cyano-4-fluorophenyl)acetate. 1H-NMR (300 MHz, CDCl3) δ ppm 7.49˜7.55 (m, 2H), 7.17 (t, J=8.2 Hz, 1H), 3.71 (s, 3H), 3.63 (s, 2H).

reactant | (3-cyano-4-fluorophenyl)acetic acid | 5.6 mmol, 980 mg | C(#N)C=1C=C(C=CC1F)CC(=O)O | C9H6FNO2
reactant | HCl MeOH | 5 M, 10 mL | Cl.CO
solvent | methanol | 10 mL | CO | CH4O
product | methyl (3-cyano-4-fluorophenyl)acetate | C(#N)C=1C=C(C=CC1F)CC(=O)OC | C10H8FNO2
